US09126931B2
4-(3-Cyano-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-9-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To 9-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound E3-1-1, 300 mg, 0.759 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (282 mg, 0.911 mmol, 1.2 eq.), Pd(PPh3)2Cl2 (26.6 mg, 0.0379 mmol, 0.05 eq.) and sodium carbonate (241 mg, 2.28 mmol, 3.0 eq.), DME (5 ml) and water (1 ml) were added. The mixture was subjected to reduced pressure under ultrasonication treatment, followed by flushing with nitrogen gas. This procedure was repeated five times and then degassed. The mixture was stirred at 80° C. for 80 min under nitrogen atmosphere. Pd(PPh3)2Cl2 (26.6 mg, 0.0379 mmol, 0.05 eq.) was added and the mixture was further stirred at 80° C. for 20 min. Then, the mixture was cooled to room temperature, and added with water and ethyl acetate. The insoluble matters were filtered through Celite. The organic layer was dried over sodium sulfate. The drying agent was removed by filtration, followed by concentration under reduced pressure to obtain the title compound as a crude product (gray powder).

reactant | 9-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.759 mmol, 300 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C20H15BrN2O2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.911 mmol, 282 mg, 1.2 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | sodium carbonate | 2.28 mmol, 241 mg, 3.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 5 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 0.0379 mmol, 26.6 mg, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.0379 mmol, 26.6 mg, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-(3-Cyano-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-9-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C30H31N3O4
